2141-09-22 04:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Temp 102.  Cultured and started Abx, Renal agreed with not starting IP
   antibiotics given peritoneal fluid
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2141-9-21**] 01:06 PM
   Levofloxacin - [**2141-9-21**] 01:06 PM
   Aztreonam - [**2141-9-22**] 02:25 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2141-9-21**] 05:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-9-22**] 04:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.9
C (98.4
   HR: 94 (83 - 116) bpm
   BP: 183/90(115) {109/57(72) - 212/113(134)} mmHg
   RR: 19 (10 - 33) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 56 Inch
             Total In:
                                                                  3,160 mL
                                                                    246 mL
   PO:
                                                                  2,420 mL
             TF:
   IVF:
                                                                    740 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                      0 mL
   Urine:
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,930 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 89%
   ABG: 7.20/47/96.[**Numeric Identifier 244**]/16/-9
   Physical Examination
   rectal temp did not register BP 106/48 HR 70 RR 19 Sat 100% on room
   air, pulsus < 10
   General: chronically ill appearing young female in no distress,
   shivering in bed
   HEENT: right pupil round and reactive to light, left eye prosthesis,
   sclerae anicteric, right EOM intact, MMM, OP clear, bilateral
   periorbital edema
   Neck: no palpable lymphadenopathy, scars from multiple prior dialysis
   catheters and CVLs, no meningismus
   Chest: clear bilaterally with good inspiratory effort, no wheezes,
   rales, or rhonchi
   CV: regular rate/rhythm, normal s1s2, 2/6 systolic murmur at LUSB
   Abdomen: soft, nontender, slightly distended and resonant to
   percussion, PD catheter in place in left abdomen
   Back: very mild spinal tenderness over approx L3 level of spine
   Extremities: no edema, DP pulses 2+ bilaterally, warm, no pain with
   passive motion of right hip joint, nontender over trochanteric bursa on
   right
   Skin: no rashes
   Neuro: alert, oriented x 3 ("[**Hospital3 **]" "[**2141**]" "[**9-19**]"), R
   pupil reactive, R eye movements intact, facial expression muscles
   intact, facial sensation intact, should shrug intact, 5/5 strength in
   bilateral deltoids, biceps, triceps, hip flexors/extensors, ankle
   flexors/extensors; sensation in bilateral LE intact to light touch,
   toes downgoing bilaterally
   Labs / Radiology
   116 K/uL
   7.6 g/dL
   119 mg/dL
   8.5 mg/dL
   16 mEq/L
   4.1 mEq/L
   60 mg/dL
   101 mEq/L
   131 mEq/L
   23.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2141-9-20**]  09:34 PM
                             [**2141-9-21**]  02:59 AM
                             [**2141-9-21**]  04:40 AM
                             [**2141-9-21**]  03:48 PM
   WBC
   4.3
   5.2
   Hct
   21.9
   23.6
   Plt
   95
   116
   Cr
   8.8
   2.5
   8.5
   TCO2
   19
   Glucose
   99
   101
   119
   Other labs: PT / PTT / INR:32.1/47.9/3.3, ALT / AST:42/81, Alk Phos / T
   Bili:191/0.4, Amylase / Lipase:313/76, Differential-Neuts:84.0 %,
   Band:0.0 %, Lymph:12.4 %, Mono:2.7 %, Eos:0.8 %, Lactic Acid:0.9
   mmol/L, Albumin:3.9 g/dL, LDH:262 IU/L, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL,
   PO4:5.8 mg/dL
   Imaging: Echo (PA HTN), V/Q scan, U/S
   Assessment and Plan
   VBG added to f/u pH of 7.2, thought to be from opioid-induced
   hypoventilation
   Stress dose steroids are 2-3 times home dose.  D/C IV steroids today.
   15 mg Prednisone ordered
   24 y/o woman with SLE, stage 5 chronic kidney disease, and hypertension
   who presents in transfer from the medical floor with hypotension and
   altered mental status.
   # Hypotension: Improved after arrival to the MICU and after
   administration of naloxone. Could be related to narcosis, though
   concerning in this patient with difficult to control hypertension who
   missed several of her medications today that there is underlying
   infectious process with ? early sepsis. CXR without obvious infiltrate,
   though other potential sources would include peritoneal fluid (PD
   cath), urine, and blood (though patient does not have any indwelling
   lines). Hip, due to small effusion, could be another source though no
   pain with active or passive motion on my exam to suggest septic
   arthritis. Patient's clonidine patch actually intact throughout episode
   (including improvement of BPs to 150s systolic), so will keep on for
   now and continue to monitor.
   - send blood cultures, UA & cultures, PD dialysate culture
   - as BP improved to 150s systolic with only intervention naloxone, will
   continue to monitor, though will consider antibiotics if hypotension
   recurs
   - if hypotension recurs, remove clonidine patch
   - consider hip effusion as potential source if patient decompensates
   - due to chronic steroid use, if hypotension recurs or persists, would
   use stress dose steroids
   # Altered mental status: Prior to transfer, the patient was noted to be
   less arousable. Had received narcotics, though these were last given in
   the morning. By time of transfer back to mental baseline per patient
   and family, though patient does not recall episode (including ABG).
   - avoid sedating medications
   - continue to monitor though appears at current baseline
   # Right leg/hip pain: no evidence of avascular necrosis or fracture on
   MRI though there is a small effusion.
   - continue to monitor
   - avoid narcotics for now, restart slowly when mentally clear in the AM
   # Hyperkalemia: Chronic issue. Patient takes kayexalate intermittently
   per her report (last dose Monday).
   - will give single dose of kayexelate 30 g PO X 1 now
   - no further calcium gluconate as calcium level > 15 (though suspect
   drawn near calcium infusion)
   # CKD V: Chronic issue and not yet on PD as she has not tolerated it
   during this admission.
   - Renal following and aware of ICU transfer
   # Anemia: Hct stable around 20. S/p 1 U PRBCs today with Hct 20.1 to
   21.9. Continue to monitor.
   - guaiac stools
   #. Prior SVC thrombus: INR 3.5 on ICU admission. Hold warfarin tonight
   and recheck INR in AM.
   # Systemic lupus erythematosus: continue home prednisone dose of 5 mg
   PO daily
   # FEN: low sodium, renal diet; treatment of hyperkalemia as above,
   replete other lytes prn
   # Proph: INR therapeutic, no indication for PPI, kayexalate for bowels
   now
   Code: Full code, confirmed with patient
   Communication: with the patient and her mother [**Name (NI) 4948**] [**Name (NI) **], contact number
   correct in chart
   Access: 2 PIVs
   Dispo: ICU pending further monitoring of BP
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2141-9-20**] 11:42 PM
   22 Gauge - [**2141-9-20**] 11:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2141-09-22 04:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Temp 102.  Cultured and started Abx, Renal agreed with not starting IP
   antibiotics given peritoneal fluid clarity
   Had PD (2 dwells) 200 +; tolerated well without abdominal pain
   Allergies:
   Penicillins
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2141-9-21**] 01:06 PM
   Levofloxacin - [**2141-9-21**] 01:06 PM
   Aztreonam - [**2141-9-22**] 02:25 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2141-9-21**] 05:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain
   Flowsheet Data as of  [**2141-9-22**] 04:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.9
C (98.4
   HR: 94 (83 - 116) bpm
   BP: 183/90(115) {109/57(72) - 212/113(134)} mmHg
   RR: 19 (10 - 33) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 56 Inch
             Total In:
                                                                  3,160 mL
                                                                    246 mL
   PO:
                                                                  2,420 mL
             TF:
   IVF:
                                                                    740 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                      0 mL
   Urine:
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,930 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96% (RA)
   ABG:
   Physical Examination
   General: Pleasant, young woman, sleeping, easily arousable, NAD, alert
   and oriented.
   HEENT: right pupil round and reactive to light, left eye prosthesis,
   sclerae anicteric, right EOM intact, MMM, OP clear
   Neck: no palpable lymphadenopathy, scars from multiple prior dialysis
   catheters and CVLs, no meningismus, mild edema around neck (much
   improved since yesterday)
   Chest: clear bilaterally with good inspiratory effort, no wheezes,
   rales, or rhonchi
   CV: regular rate/rhythm, normal s1s2, [**2-15**] blowing systolic murmur at
   LUSB
   Abdomen: soft, nontender, slightly distended and resonant to
   percussion, PD catheter in place in left abdomen with dressing C/D/I
   Extremities: no edema, DP pulses 2+ bilaterally, warm, no pain with
   passive motion of right hip joint, nontender over trochanteric bursa on
   right
   Skin: no rashes
   Labs / Radiology
   Am labs pending
                             [**2141-9-20**]  09:34 PM
                             [**2141-9-21**]  02:59 AM
                             [**2141-9-21**]  04:40 AM
                             [**2141-9-21**]  03:48 PM
   WBC
   4.3
   5.2
   Hct
   21.9
   23.6
   Plt
   95
   116
   Cr
   8.8
   2.5
   8.5
   TCO2
   19
   Glucose
   99
   101
   119
   Other labs: PT / PTT / INR:32.1/47.9/3.3, ALT / AST:42/81, Alk Phos / T
   Bili:191/0.4, Amylase / Lipase:313/76, Lactic Acid:0.9 mmol/L,
   Albumin:3.9 g/dL, LDH:262 IU/L, Ca++:7.2 mg/dL, Mg++:1.5 mg/dL, PO4:5.8
   mg/dL
   Imaging: V/Q scan, U/S
   TTE: The left atrium is moderately dilated. There is severe symmetric
   left ventricular hypertrophy. The left ventricular cavity size is
   normal. Regional left ventricular wall motion is normal. Left
   ventricular systolic function is hyperdynamic (EF 80%). A mild (18
   mmHg) mid-cavitary gradient is identified. Right ventricular chamber
   size and free wall motion are normal. The aortic valve leaflets (3)
   appear structurally normal with good leaflet excursion and no aortic
   stenosis. The increased transaortic velocity is likely related to high
   cardiac output. Mild (1+) aortic regurgitation is seen. There is no
   systolic anterior motion of the mitral valve leaflets. Mild (1+) mitral
   regurgitation is seen. There is moderate pulmonary artery systolic
   hypertension. There is a small pericardial effusion. The effusion
   appears circumferential. There are no echocardiographic signs of
   tamponade.
   IMPRESSION: Severe symmetric left ventricular hypertrophy with
   hyperdynamic systolic function and mild mid-cavitary gradient. Mild
   aortic regurgitation. Moderate pulmonary hypertension. Findings
   consistent with hyperrtophic cardiomyopathy.
   Compared with the prior study (images reviewed) of [**2140-8-26**], pulmonary
   hypertension has developed (also present on the study from [**2140-5-20**]).
   Pericardial effusion is also new.
   V/Q scan:
   Improved V/Q scan from [**9-/2139**] with no findings to suggest acute
   pulmonary embolism.
   B/L upper extremity and neck U/S:
   Grayscale and Doppler son[**Name (NI) 4090**] of the
   right and left internal jugular, subclavian, axillary, brachial,
   basilic and
   cephalic veins were performed. There is nonocclusive focal thrombus
   seen in
   the left subclavian vein, where the vein is not fully compressible.
   Flow is
   seen in the region, indicating that the thrombus is nonocclusive.
   Elsewhere,
   normal flow, augmentation, compressibility were appropriate and
   waveforms are
   demonstrated.
   Assessment and Plan
   24 y/o woman with SLE, stage 5 chronic kidney disease, and hypertension
   who presents in transfer from the medical floor with hypotension and
   altered mental status.
   # Labile blood pressure: Hypotension improved after arrival to the MICU
   and after administration of naloxone. Could be related to narcosis,
   though concerning in this patient with difficult to control
   hypertension who missed several of her medications today that there is
   underlying infectious process with ? early sepsis. CXR without obvious
   infiltrate, PD fluid without infection, no pyuria. Hip, due to small
   effusion, could be another source though no pain with active or passive
   motion on my exam to suggest septic arthritis. Patient's clonidine
   patch actually intact throughout episode (including improvement of BPs
   to 150s systolic), so will keep on for now and continue to monitor.
   Doing well on prednisone 15mg (home dose 5mg).
   - rheum saw patient and did not feel there is much concern for septic
   joint
   - f/u blood cultures
   - as BP improved to 150s systolic with only intervention naloxone, will
   continue to monitor, though will consider antibiotics if hypotension
   recurs
   - if hypotension recurs, remove clonidine patch
   - d/c hydralazine
   - consider hip effusion as potential source if patient decompensates
   # Febrile Episode: unclear etiology. On vancomycin, levofloxacin, and
   aztreonam
   - await culture results --- if no growth for 48-72 hours and still no
   clear source, d/c antibiotics
   # Altered mental status: Prior to transfer, the patient was noted to be
   less arousable. Had received narcotics, though these were last given in
   the morning. By time of transfer back to mental baseline per patient
   and family, though patient does not recall episode (including ABG).
   - avoid sedating medications
   - continue to monitor though appears at current baseline
   # Right leg/hip pain: Resolved per patient.  No evidence of avascular
   necrosis or fracture on MRI though there is a small effusion.
   - continue to monitor
   - avoid morphine, use Tylenol and vicodin for pain control
   # Hyperkalemia: Chronic issue. Patient takes kayexalate intermittently
   per her report (last dose Monday).
   - monitor and dose as needed
   # CKD V: Renal following. Did well with PD on [**9-22**]
   - f/u daily renal recs for PD
   # Anemia: Hct stable around 20. S/p 1 U PRBCs today with Hct 20.1 to
   21.9. Continue to monitor.
   - guaiac stools
   #. Prior SVC thrombus: INR 3.5 on ICU admission. Hold warfarin tonight
   and recheck INR in AM.
   # Systemic lupus erythematosus: Home prednisone dose 5mg. Currently on
   15mg in setting of acute illness (day 2)
   # FEN: low sodium, renal diet; treatment of hyperkalemia as above,
   replete other lytes prn
   # Proph: INR therapeutic, no indication for PPI, kayexalate for bowels
   now
   Code: Full code, confirmed with patient
   Communication: with the patient and her mother [**Name (NI) 4948**] [**Name (NI) **], contact number
   correct in chart
   Access: 2 PIVs
   Dispo: ICU pending further monitoring of BP
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  SSI prn
   Lines:
   20 Gauge - [**2141-9-20**] 11:42 PM
   22 Gauge - [**2141-9-20**] 11:43 PM
   Prophylaxis:
   DVT: currently supratherapeutic
   Stress ulcer: no current indication
   VAP:
   Comments:
   Communication:  with patient and her mother
   [**Name (NI) 66**] status: Full code
   Disposition: transfer to floor today